US06002008
A mixture of 2.05 g (5.1 mmol) of 4-[(3-bromophenyl)amino]-7-methoxy-6-nitro -3-quinolinecarbonitrile, 1.37 g (25.7 mmol) of ammonium chloride, and 0.86 g (15.4 mmol) of powdered iron was stirred at reflux in 26 ml water and 26 ml methanol for 2 hours. The mixture was diluted with ethyl acetate and the hot mixture was filtered. The organic layer was separated from the filtrate and dried over magnesium sulfate. The solvent was removed and the residue was chromatographed on silica gel eluting with mixtures of chloroform and ethyl acetate. Product fractions were combined to give 1.3 g of 6-amino-4-[(3-bromophenyl)amino]-7-methoxy -3-quinolinecarbonitrile as a yellow solid: mass spectrum (electrospray, m/e): M+H 369.1, 371.1.

reactant | 4-[(3-bromophenyl)amino]-7-methoxy-6-nitro -3-quinolinecarbonitrile | 5.1 mmol, 2.05 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])OC)C#N | C17H11BrN4O3
reactant | ammonium chloride | 25.7 mmol, 1.37 g | [Cl-].[NH4+]
reactant | methanol | 26 ml | CO | CH4O
solvent | water | 26 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 15.4 mmol, 0.86 g | [Fe] | Fe
product | 6-amino-4-[(3-bromophenyl)amino]-7-methoxy -3-quinolinecarbonitrile | 1.3 g | NC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=CC=C1)Br | C17H13BrN4O
